US04567175
A mixture of 1 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride, 2 ml of acetic anhydride and 2 ml of acetic acid is stirred at 110° C. for 4 hours. Then, the reaction mixture is evaporated under reduced pressure to remove solvent. Ether is added to the residue, and the precipitated crystals are collected by filtration. 1.08 g of (±)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(dimethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride are thereby obtained. Recrystallization of the product from a mixture of chloroform, ethanol and ether gives crystals (needles) melting at 159°-161° C.

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride | 1 g | Cl.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC(=C2)Cl
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | (±)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(dimethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride | 1.08 g | Cl.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)C)C=CC(=C2)Cl | InChI=1S/C22H25ClN2O4S.ClH/c1-14(26)29-20-21(15-5-8-17(28-4)9-6-15)30-19-13-16(23)7-10-18(19)25(22(20)27)12-11-24(2)3;/h5-10,13,20-21H,11-12H2,1-4H3;1H/t20-,21+;/m1./s1
